US07268123B2
2.6-Diaza-bicyclo[5.2.0]non-1(7)-ene-8,9-dione (2)
A solution of 3,4-diethoxy-3-cyclobutene-1,2-dione (20 mmol, 3.4 g) in methanol (80 mL) and a solution of 1,3-diaminopropane (30 mmol, 2.23 g) in methanol (80 mL) were added dropwise in a parallel fashion over 10 minutes under dry nitrogen at ambient temperature to methanol (130 mL) under vigorous stirring. Stirring was continued overnight after which the precipitated product was filtered and washed with ice-cold methanol (10 mL). The obtained faintly yellowish powder was dried in vacuum (1 Torr) to yield 2.9 g (88-95%) of the desired title compound; mp 335° C. MS (ES−): m/e 151.1 [M−H]−.

reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 20 mmol, 3.4 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
reactant | 1,3-diaminopropane | 30 mmol, 2.23 g | NCCCN | C3H10N2
solvent | methanol | 80 mL | CO | CH4O
solvent | methanol | 80 mL | CO | CH4O
solvent | methanol | 130 mL | CO | CH4O
product | 2.6-Diaza-bicyclo[5.2.0]non-1(7)-ene-8,9-dione | 2.9 g, 88-95% | C1=2NCCCNC2C(C1=O)=O | C7H8N2O2
